US03959364
A solution of 4-bromophenylmagnesium bromide in ether was treated with isobutyraldehyde to give 1-(4-bromophenyl)-2-methylpropan-1-ol, b.p. 152°-154°C./15mm. This was dehydrated with polyphosphoric acid at 20°C., to give 1-bromo-4-(2-methyl-1-propenyl)benzene, b.p. 110°-112°C./6mm, which was hydrogenated in an ether/ethanol solvent containing 50% hydrobromic acid (2% by volume of solvent) over platinum oxide to give the desired product, b.p. 120°-122°C./22mm.

reactant | 4-bromophenylmagnesium bromide | BrC1=CC=C(C=C1)[Mg]Br
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-(4-bromophenyl)-2-methylpropan-1-ol | BrC1=CC=C(C=C1)C(C(C)C)O | C10H13BrO
